US05750724
3-{3-[(7-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-amino]-propyl}-1H-indol-5-ol
5-Benzyloxyindole-3-propionic acid (1.8 g, 6.0 mmole), 1-hydroxybenzotriazole hydrate (0.97 g, 7.2 mmole) and 1,3-diisopropylcarbodiimide (2.3 ml, 14.4 mmole) were combined in 150 ml of DMF and stirred at room temperature for 2 hours under a nitrogen atmosphere. To this was added dropwise 7-methoxy-2,3-dihydro-1,4-benzodioxin-2-methanamine hydrochloride (1.4 g, 6.0 hydrochloride (1.4 g, 6.0 mmole) in 50 ml of DMF and the mixture was further stirred for 48 hours. The solvent was removed and replaced with dichloromethane. The mixture was then washed with H2O. The separated organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue was chromatographed on a silica gel using first dichloromethane and then 2.5% methanol in dichloromethane as eluants to give 2.6 g (90%) of the desired product, (7-methoxy-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(5-benzyloxy-1H-indol-3-yl)-propanamide, as a light tan solid.

reactant | 5-Benzyloxyindole-3-propionic acid | 6.0 mmole, 1.8 g | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCC(=O)O | C18H17NO3
reactant | 1-hydroxybenzotriazole hydrate | 7.2 mmole, 0.97 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-diisopropylcarbodiimide | 14.4 mmole, 2.3 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 7-methoxy-2,3-dihydro-1,4-benzodioxin-2-methanamine hydrochloride | Cl.COC=1C=CC2=C(OC(CO2)CN)C1
reactant | hydrochloride | 6.0 mmole, 1.4 g | Cl | ClH
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-{3-[(7-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-amino]-propyl}-1H-indol-5-ol | 2.6 g, 90% | COC=1C=CC2=C(OC(CO2)CNCCCC2=CNC3=CC=C(C=C23)O)C1 | C21H24N2O4
